US05008263
5-Amino-1-methyl-4-nitroso-3-phenylpyrazole
A mixture of 2-hydroxyimino-3-oxo-3-phenylpropanenitrile (2.61 g, 15 mmol) and methylhydrazine (1.1 ml, 21 mmol) was stirred at reflux in ethanol (20 ml) for 2 hours, cooled and concentrated under reduced pressure. The residue was partitioned between ether (50 ml) and dilute hydrochloric acid (50 ml, 2N solution). The aqueous phase was separated and rendered basic by the addition of saturated aqueous potassium carbonate. The red solid which precipitated was filtered off and dried, to give the title compound, 1.40 g, (46%). m.p. 230°-231° C. (literature. m.p. 230°-231° C., Gazz. Chim. Ital., (1968), 98, 569.

reactant | 2-hydroxyimino-3-oxo-3-phenylpropanenitrile | 15 mmol, 2.61 g | ON=C(C#N)C(C1=CC=CC=C1)=O | C9H6N2O2
reactant | methylhydrazine | 21 mmol, 1.1 ml | CNN | CH6N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-Amino-1-methyl-4-nitroso-3-phenylpyrazole | NC1=C(C(=NN1C)C1=CC=CC=C1)N=O | C10H10N4O
